US04703052
3-Benzyl-2,3-dihydrobenzofuran
To a solution of 19.5 g (91.4 mmole) 3-benzylbenzofuran in 75 ml trifluoroacetic acid was added 31.8 g (273 mmole) triethylsilane and the mixture was heated at reflux for six hours. The mixture was concentrated in vacuo, the residue diluted with water and extracted with ethyl ether. The ether extracts were carbon treated, the filtrate dried (Na2SO4) and the solvent evaporated to provide a dark oil. The oil was purified by silica gel column chromatography eluting with hexane, then its mixtures with ethyl ether. The combined product fractions were evaporated to provide 3.9 g (20%) of the title compound as a yellow oil. 1H-NMR(CDCl3)ppm(delta): 3.2 (m, 2H), 4.0 (m, 2H), 4.6 (t, 1H), 6.7-7.5 (m, 9H).

reactant | 3-benzylbenzofuran | 91.4 mmole, 19.5 g | C(C1=CC=CC=C1)C1=COC2=C1C=CC=C2 | C15H12O
reactant | triethylsilane | 273 mmole, 31.8 g | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 75 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Benzyl-2,3-dihydrobenzofuran | 3.9 g, 20% | C(C1=CC=CC=C1)C1COC2=C1C=CC=C2 | C15H14O
